US06706725B1
k) (E)-7-[4-(3,4-bis-Hydroxymethyl-phenoxymethyl)2-thienyl]-3-ethylnon-6-en-3-ol
480 mg (1.1 mmol) of dimethyl 4-[5-((E)-1,5-diethyl-5-hydroxyhept-1-enyl)-3-thienylmethoxy]phthalate are dissolved in 10 mL of ethyl ether. This solution is added to a suspension of 130 mg (3.4 mmol) of lithium aluminium hydride and the reaction medium is stirred for 15 minutes. The reaction medium is then treated by successive addition of 130 μL of water, 130 μL of 15% sodium hydroxide and 400 μL of water. After filtration and chromatography on silica gel (eluent: 2 heptane/8 ethyl acetate), the desired product is obtained in the form of white crystals (m.p.=63-64° C.; m=380 mg; Y=90%).

reactant | dimethyl 4-[5-((E)-1,5-diethyl-5-hydroxyhept-1-enyl)-3-thienylmethoxy]phthalate | 1.1 mmol, 480 mg | C(C)/C(=C\CCC(CC)(O)CC)/C1=CC(=CS1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C26H34O6S
reactant | lithium aluminium hydride | 3.4 mmol, 130 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 130 μL | O | H2O
reactant | sodium hydroxide | 130 μL | [OH-].[Na+]
reactant | water | 400 μL | O | H2O
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | (E)-7-[4-(3,4-bis-Hydroxymethyl-phenoxymethyl)2-thienyl]-3-ethylnon-6-en-3-ol | OCC=1C=C(OCC=2C=C(SC2)/C(=C/CCC(CC)(O)CC)/CC)C=CC1CO | C24H34O4S
